US07244725B2
C. N-[(1S,2R)-3-{[(4-sec-Butyl-1,1′-biphenyl-2-yl)methyl]amino}-1-(3,5-difluorobenzyl)-2-hydroxypropyl]acetamide
To N-[(1S,2R)-3-{[(4-bromo-1,1′-biphenyl-2-yl)methyl]amino}-1-(3,5-difluorobenzyl)-2-hydroxypropyl]acetamide (150 mg, 0.3 mmol) in THF (2 mL) was added 2M potassium phosphate (0.65 mmol), tri-sec butylborane (1M in THF, 330 μL, 0.33 mmol), and bis-triphenylphoshine palladium(II) dichloride (3 mg, 0.003 mmol), and the reaction was heated at reflux for 2 days. Tri-sec butylborane (1M in THF, 1.2 mL, 1.2 mmol) was added, then bis-triphenylphoshine palladium(II) dichloride (10 mg, 0.012 mmol), and the reaction was refluxed 16 h. The solution is diluted in ethyl acetate and washed with water, 1N hydrochloric acid, saturated sodium bicarbonate, and saturated sodium chloride. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. Flash chromatography (7% methanol/dichloromethane) gave the title compound. MS (ESI) [M+H+]=481.34.

reactant | N-[(1S,2R)-3-{[(4-bromo-1,1′-biphenyl-2-yl)methyl]amino}-1-(3,5-difluorobenzyl)-2-hydroxypropyl]acetamide | 0.3 mmol, 150 mg | BrC1=CC(=C(C=C1)C1=CC=CC=C1)CNC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | C25H25BrF2N2O2
reactant | potassium phosphate | 0.65 mmol, 2M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tri-sec butylborane | 0.33 mmol, 1M, 330 μL | C(C)(CC)B(C(C)CC)C(C)CC | C12H27B
reactant | Tri-sec butylborane | 1.2 mmol, 1M, 1.2 mL | C(C)(CC)B(C(C)CC)C(C)CC | C12H27B
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(1S,2R)-3-{[(4-sec-Butyl-1,1′-biphenyl-2-yl)methyl]amino}-1-(3,5-difluorobenzyl)-2-hydroxypropyl]acetamide | C(C)(CC)C1=CC(=C(C=C1)C1=CC=CC=C1)CNC[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O | C29H34F2N2O2
